US06245316B1
6.9 grams (0.300 mole) of sodium were completely dissolved in a mixture of 200 ml of anhydrous isopropanol and 100 ml of tetrahydrofuran. 25.0 grams (0.0948 mole) of anhydrous (H2O content<100 ppm) of gadolinium trichloride was added in portions to the sodium isopropoxide solution. The resulting mixture was stirred at reflux for 5 hours. After 24 hours of sedimentation at room temperature, a transparent, colorless solution of gadolinium triisopropoxide in the alcohol-THF solution resulted. About 100 ml of the resultant solution were evacuated in Schlenk vessel and the dried residue was subsequently dissolved in 150 ml of deoxygenated, anhydrous, dimethylformamide. The remaining solution was analyzed for Gd(3) content by EDTA titration in the presence of urotropin buffer with xylenol orange as the metallochromic indicator.

reactant | sodium | 0.300 mole, 6.9 grams | [Na] | Na
reactant | gadolinium trichloride | [Cl-].[Cl-].[Cl-].[Gd+3]
reactant | sodium isopropoxide | CC([O-])C.[Na+]
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | gadolinium triisopropoxide | CC([O-])C.CC([O-])C.CC([O-])C.[Gd+3] | InChI=1S/3C3H7O.Gd/c3*1-3(2)4;/h3*3H,1-2H3;/q3*-1;+3
